US07550471B2
Preparation of 5-methyl-6-cyclopentyl-7-hydroxy-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 3-amino-1,2,4-triazole (14 g), ethyl 2-cyclopentyl-3-oxobutanoate (0.17 mol, Ex. 1) and tributylamine (50 ml) was heated at 180° C. for 6 hours. The reaction mixture was cooled to about 70° C., and aqueous NaOH solution (21 g in 200 ml of H2O) was then added and the solution was stirred for another 30 min. Following phase separation and extraction with diethyl ether, the aqueous phase was acidified with conc. HCl solution. The precipitate gave 19 g of the title compound.

reactant | 3-amino-1,2,4-triazole | 14 g | NC1=NNC=N1 | C2H4N4
reactant | ethyl 2-cyclopentyl-3-oxobutanoate | 0.17 mol | C1(CCCC1)C(C(=O)OCC)C(C)=O | C11H18O3
reactant | tributylamine | 50 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | NaOH | 200 ml, 21 g | [OH-].[Na+]
product | 5-methyl-6-cyclopentyl-7-hydroxy-[1,2,4]triazolo[1,5-a]pyrimidine | 19 g | CC1=NC=2N(C(=C1C1CCCC1)O)N=CN2 | C11H14N4O
